US07253286B2
2-Chloro-6-iodopyridin-3-ol
After dissolving 2-chloro-3-hydroxypyridine (5.00 g, 38.6 mmol) and sodium iodide (5.79 g, 38.6 mmol) in dimethylformamide (70 ml), Chloramine T (10.9 g, 38.6 mmol) was added while cooling on ice, and then the mixture was stirred at room temperature for 1 hour. Upon adding 2N aqueous hydrochloric acid (19.3 ml, 38.6 mmol) after the reaction, the reaction solution was distributed between ethyl acetate and water, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:hexane=1:2), and the fraction containing the target substance was concentrated to obtain the title compound (9.00 g, 35.2 mmol, 91%) as colorless crystals.

reactant | 2-chloro-3-hydroxypyridine | 38.6 mmol, 5.00 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | sodium iodide | 38.6 mmol, 5.79 g | [I-].[Na+]
reactant | Chloramine T | 38.6 mmol, 10.9 g | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
reactant | hydrochloric acid | 38.6 mmol, 2N, 19.3 ml | Cl | ClH
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-Chloro-6-iodopyridin-3-ol | 35.2 mmol, 9.00 g, 91% | ClC1=NC(=CC=C1O)I | C5H3ClINO
